### PR TITLE
ereals from a pseudometric type

### PR DESCRIPTION
**Pull request by affeldt-aist**
warning: proofs to be cleaned

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -787,6 +787,678 @@ Hint Extern 0 (is_true (0 < _)) => match goal with
...
+      rewrite -ltr_subl_addl add0r ltr_oppl.
+      by move: (contract_lt1 r); rewrite ltr_norml => /andP[].
+    by rewrite re1 addrAC ltr_subl_addl ltr_add.
+   have : locally r%:E (setT `\ +oo%E) by exists 1.
+   case => _/posnumP[x] /=; rewrite /ball_ => h.
+   by exists x%:num => // y /h; exact: Aoo.
+by apply (@locally_fin_out_below _ e) => //; rewrite ltW.
+Qed.
+
+Lemma ereal_locally_locall_ : locally = locally_ ereal_ball.
```
Comment (CohenCyril) [inline theories/normedtype.v:1332]: `ereal_locallyE`

File: theories/normedtype.v [hunk 2]
```diff
@@ -946,39 +946,26 @@ Qed.
...
+    by rewrite (@le_trans _ _ 0) // ?pmulr_lle0 // mulr_ge0 // ?oppr_ge0 // ltW.
+  have [?|r00] := ler0P r0; first by rewrite ltr_le_add // 2!mulrN mulrC.
+  by move: (le_lt_trans r10 (lt_trans r00 r0r1)); rewrite ltxx.
+- by rewrite ltr_pdivr_mulr ?ltr_paddr// mul1r ltr_spaddl // ler_norm.
+- rewrite ltr_pdivl_mulr ?mulN1r ?ltr_paddr// => _.
+  by rewrite ltr_oppl ltr_spaddl // ler_normr lexx orbT.
+- by rewrite -subr_gt0 opprK.
+Qed.
+
+Lemma homo_contract_le : {homo contract : x y / (x <= y)%O}.
```
Comment (CohenCyril) [inline theories/normedtype.v:965]: I suggest that this is called `contract_inc` and that the proof of `homo_contract_lt` is inlined in it.

File: theories/normedtype.v [hunk 3]
```diff
@@ -787,6 +903,612 @@ Hint Extern 0 (is_true (0 < _)) => match goal with
...
+Qed.
+
+Lemma contract0 : contract 0%:E = 0.
+Proof. by rewrite /contract mul0r. Qed.
+
+Lemma contractN x : contract (- x) = - contract x.
+Proof. by case: x => //= [r|]; [ rewrite normrN mulNr | rewrite opprK]. Qed.
+
+Definition expand r : {ereal R} :=
+  if r == 1 then +oo%E else (* Cyril: r >= 1 would lead to a better convention *)
```
Comment (CohenCyril) [inline theories/normedtype.v:981]: Taking this convention would make expand nondecreasing everywhere, making it possible to use some of the `homoRL`/`homoLR` lemma where `monoRL`/`monoLR` do not apply...

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -15,6 +15,9 @@
     * `ereal_sup`, `ereal_inf`
   + lemmas about `ereal_sup`:
     * `ereal_sup_ub`, `ub_ereal_sup`, `ub_ereal_sup_adherent`
+- in `normedtype.v`:
+  + function `contract` (bijection from `{ereal R}` to `R`)
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:19]: @affeldt-aist you should document `expand` as well.

File: theories/normedtype.v [hunk 5]
```diff
@@ -787,6 +913,676 @@ Hint Extern 0 (is_true (0 < _)) => match goal with
...
+Lemma expandN1 x : x <= -1 -> expand x = -oo%E.
+Proof.
+move=> x1; rewrite /expand x1 ifF //; apply/negP => /le_trans/(_ x1).
+by apply/negP; rewrite -ltNge -subr_gt0 opprK.
+Qed.
+
+Lemma expand0 : expand 0 = 0%:E.
+Proof. by rewrite /expand leNgt ltr01 /= oppr_ge0 leNgt ltr01 /= mul0r. Qed.
+
+(* Cyril: TODO: add to ssrnum *)
```
Comment (CohenCyril) [inline theories/normedtype.v:1016]: remove the comment or replace it by added in mathcomp-1.11.0 ssrnum as ...

File: theories/sequences.v [hunk 6]
```diff
@@ -65,7 +65,7 @@ Arguments mk_sequence R f /.
 Notation "[ 'sequence' E ]_ n" := (mk_sequence (fun n => E)) : ring_scope.
 Notation "R ^nat" := (sequence R) : type_scope.
 
-Notation "'nondecreasing_seq' f" := ({homo f : n m / (n <= m)%nat >-> n <= m})
+Notation "'nondecreasing_seq' f" := ({homo f : n m / (n <= m)%nat >-> (n <= m)%O})
```
Comment (CohenCyril) [inline theories/sequences.v:68]: why?

Comment (affeldt-aist) [reply theories/sequences.v:68]: So that it type-checks in Lemma `nondecreasing_seq_ereal_cvg`.
